US08309580B2
(4) 4-[cyclohexyl(2,5-dimethylfuran-3-yl)methoxy]benzoic acid
To a solution of cyclohexyl(2,5-dimethylfuran-3-yl)methanol (521 mg) obtained by the above-mentioned reaction and methyl 4-hydroxybenzoate (456 mg) in tetrahydrofuran (20 mL) were added tributylphosphine (1.2 mL) and 1,1′-(azodicarbonyl)dipiperidine (1.2 g), and the mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column (0% ethyl acetate/hexane to 12% ethyl acetate/hexane) to give methyl 4-[cyclohexyl(2,5-dimethylfuran-3-yl)methoxy]benzoate as an oil. The obtained methyl 4-[cyclohexyl(2,5-dimethylfuran-3-yl)methoxy]benzoate was dissolved in methanol (5 mL) and tetrahydrofuran (5 mL). 2N Lithium hydroxide (1.0 mL) was added, and the mixture was stirred at 60° C. for 2 hr. The reaction mixture was poured into water, and the mixture was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column (0% ethyl acetate/hexane to 30% ethyl acetate/hexane) to give the title compound (501 mg, 61%) as a white crystal.

reactant | methyl 4-[cyclohexyl(2,5-dimethylfuran-3-yl)methoxy]benzoate | C1(CCCCC1)C(OC1=CC=C(C(=O)OC)C=C1)C1=C(OC(=C1)C)C | C21H26O4
reactant | Lithium hydroxide | 2N, 1.0 mL | [OH-].[Li+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-[cyclohexyl(2,5-dimethylfuran-3-yl)methoxy]benzoic acid | 501 mg, 61% | C1(CCCCC1)C(OC1=CC=C(C(=O)O)C=C1)C1=C(OC(=C1)C)C | C20H24O4
